US07531532B2
4-{2-Fluoro-4-[3-(2-phenylacetyl)thioureido]phenoxy}-2-[(pyrrolidin-1-yl)carbonylamino]pyridine
2-Phenylacetyl chloride (100 mg) was dissolved in acetonitrile (2 ml) under a nitrogen atmosphere, and then potassium thiocyanate (126 mg) was added thereto at 50° C., followed by stirring at the same temperature for 1.5 hrs. A solution of 4-(4-amino-2-fluorophenoxy)-2-[(pyrrolidin-1-yl)carbonylamino]pyridine (41 mg) in acetonitrile (4 ml) was added thereto, followed by stirring at room temperature for 2.5 hr. The reaction mixture was cooled down to room temperature, and then partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:4). Fractions containing the target compound were concentrated to give a residue, to which a small amount of diethyl ether was added to precipitate crystals. A suspension containing the crystals was diluted with a small amount of hexane. The crystals were filtered off and dried under aeration to provide the titled compound (21.4 mg, 34%) as pale yellow crystals.

reactant | 2-Phenylacetyl chloride | 100 mg | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | potassium thiocyanate | 126 mg | [S-]C#N.[K+]
reactant | 4-(4-amino-2-fluorophenoxy)-2-[(pyrrolidin-1-yl)carbonylamino]pyridine | 41 mg | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCCC2)C=C1)F | C16H17FN4O2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | 4-{2-Fluoro-4-[3-(2-phenylacetyl)thioureido]phenoxy}-2-[(pyrrolidin-1-yl)carbonylamino]pyridine | 21.4 mg, 34% | FC1=C(OC2=CC(=NC=C2)NC(=O)N2CCCC2)C=CC(=C1)NC(=S)NC(CC1=CC=CC=C1)=O | C25H24FN5O3S
